US04920116
α-[(Dipropylamino)methyl]-3,4,5-trimethoxybenzeneacetonitrile
In a manner similar to Preparation 11 react 3,4,5-trimethoxybenzeneacetonitrile with dipropylamine hydrochloride and paraformaldehyde to obtain the title compound.

reactant | 3,4,5-trimethoxybenzeneacetonitrile | COC=1C=C(C=C(C1OC)OC)CC#N | C11H13NO3
reactant | dipropylamine hydrochloride | Cl.C(CC)NCCC
reactant | paraformaldehyde | C=O | CH2O
product | α-[(Dipropylamino)methyl]-3,4,5-trimethoxybenzeneacetonitrile | C(CC)N(CCC)CC(C#N)C1=CC(=C(C(=C1)OC)OC)OC | C18H28N2O3
